US07091227B2
N-Ethyl-N′-[7-(3-pyridyl)-4,5-dihydro[1,3]thiazolo[4′,5′: 3,4]benzo[d][1,3]thiazol-2-yl]urea
A suspension of N-(6-bromo-7-oxo-4,5,6,7-tetrahydro-1,3-benzothiazol-2-yl)-N′-ethylurea (25 mg, 0.079 mmol) and thionicotinamide (11 mg, 0.079 mmol) in n-propanol (0.4 mL) was heated to about 105° C. for about 16 hrs. The reaction mixture was concentrated in vacuo and the residual crude material was purified by preparative HPLC. 10 mg (36%) pure product was isolated.

reactant | N-(6-bromo-7-oxo-4,5,6,7-tetrahydro-1,3-benzothiazol-2-yl)-N′-ethylurea | 0.079 mmol, 25 mg | BrC1C(C2=C(N=C(S2)NC(=O)NCC)CC1)=O | C10H12BrN3O2S
reactant | thionicotinamide | 0.079 mmol, 11 mg | C(C1=CN=CC=C1)(=S)N | C6H6N2S
solvent | n-propanol | 0.4 mL | C(CC)O | C3H8O
product | N-Ethyl-N′-[7-(3-pyridyl)-4,5-dihydro[1,3]thiazolo[4′,5′: 3,4]benzo[d][1,3]thiazol-2-yl]urea | 10 mg, 36% | C(C)NC(=O)NC=1SC2=C(N1)CCC1=C2N=C(S1)C=1C=NC=CC1 | C16H15N5OS2
